US07601843B2
N-[2-[1-[2-[4-(p-Toluidino)piperidin-1-yl]ethyl]cyclohexyl]ethyl]phthalimide
After adding sodium triacetoxyborohydride (0.82 g, 3.85 mmol) to a solution of 4-(p-toluidino)piperidine (0.73 g, 3.85 mmol), N-[2-[1-(formylmethyl)cyclohexyl]ethyl]phthalimide (0.77 g, 2.57 mmol) and acetic acid (0.30 mL, 5.14 mmol) in 1,2-dichloroethane (10 mL), the mixture was stirred at room temperature for 1.5 hours. Saturated aqueous sodium hydrogencarbonate was then added, and extraction was performed with chloroform-ethanol (10:1). After drying (anhydrous sodium sulfate), the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (25 g Merck Art 9385, chloroform:methanol=20:1) to obtain the title compound as a colorless oil (1.32 g).

reactant | sodium triacetoxyborohydride | 3.85 mmol, 0.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-(p-toluidino)piperidine | 3.85 mmol, 0.73 g | C1(=CC=C(C=C1)NC1CCNCC1)C | C12H18N2
reactant | N-[2-[1-(formylmethyl)cyclohexyl]ethyl]phthalimide | 2.57 mmol, 0.77 g | C(=O)CC1(CCCCC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C18H21NO3
reactant | acetic acid | 5.14 mmol, 0.30 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | N-[2-[1-[2-[4-(p-Toluidino)piperidin-1-yl]ethyl]cyclohexyl]ethyl]phthalimide | 1.32 g | C1(=CC=C(C=C1)NC1CCN(CC1)CCC1(CCCCC1)CCN1C(C=2C(C1=O)=CC=CC2)=O)C | C30H39N3O2
